US05416070
BOC-D-Ala-SerOH was prepared on a 1.0 mMol-scale by the DCC-HOBT mediated condensation of BOC-D-Ala and serinol following the procedure described in Example 21. The crude reaction product was purified by chromatography on a 1.7×24 cm column of BioSil A by successive elution with (A) 100 ml CHCl3, (B) 100 ml of 1% (v/v) MeOH/CHCl3, (C) 100 ml of 2% MeOH/CHCl3, (D) 100 ml of 4% MeOH/CHCl3, (E) 100 ml of 8% MeOH/CHCl3, and (F) 100 ml of 12% MeOH/CHCl3. The appropriate column fractions were combined and concentrated to dryness on the rotary evaporator. The oily residue was then taken up in 10 ml of CH2Cl2, filtered from the small amount of insoluble material, and again concentrated to dryness. The residue was further dried under high vacuum to yield 168 mg (68%) of product as a colorless viscous oil.

reactant | DCC HOBT | C1CCC(CC1)N=C=NC2CCCCC2.C=1C=CC2=C(C1)N=NN2O
reactant | BOC-D-Ala | N([C@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | serinol | NC(CO)CO | C3H9NO2
product | BOC-D-Ala-SerOH | N([C@H](C)C(=O)N[C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O6
